Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Sulfonamides / Morphine / Aspirin
 
Attending: ___.
 
Chief Complaint:
Confusion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with multiple medical problems, including known CAD and 
AFib, brought in by family to ER today for 2 days of confusion 
and word finding difficulties. Per family,  the patient was 
confused and was unable to follow simple commands.  In addition, 
he was having difficulty finding words.  PAtient noted to have 
recurrent GI bleeding approximately 1 month ago. Evaluation 
unknown, did receive PRBCs, and was noted to have mild confusion 
afterwards.  Since this transfusion the patient had returned to 
baseline, but he experienced increased confusion over past 2 
days. Noted to also have increased generalized weakness. 

Upon admission to floor, patient denies any localizing symptoms, 
including fevers, chills, changes in vision, chest pain, 
palpitations, shortness of breath, cough, abdominal pain, 
dysuria, incontinence (unknown), rash, arthritis, or headache.
 
Past Medical History:
PMH:  
# CAD s/p CABG times two with sternal osteo as a complication.  
# PPM  
# ___ with ___ Body Dementia c/b Visual Hallucinations. 
 (details unknown)
# iron deficiency anemia  
# spinal stenosis  
# macular degenration  
#GI bleed: AVMs
.  
PSurgHx:  
# Femur fracture s/p ___  
# R TKR in ___  
# L TKR in ___ (c/b post-op confusion and AF-RVR)  
# L hip repair ___  
# Right inguinal hernia repair  
# Pilonidal cyst I&D.  
 
Social History:
___
Family History:
Noncontributory. 

 
Physical Exam:
Vitals: 97 125/71 6216 100%RA 76.8kg  
General: pleasant elderly male in NAD  
HEENT: PERRL, no scleral icterus noted. no sinus tenderness
Neck: supple, no LAD. Multiple dilated neck veins. JVD at 7cm.  
Pulmonary: Rales on left
Cardiac: Irregularly irregular, S1, S2, ___ HSM 
Abdomen: supraumbilical ventral hernia, not incarcerated. soft, 
NT/ND,  no masses or organomegaly 
Extremities: No C/C/E bilaterally, 2+ distal pulses  
neuro: Alert. Oriented to person and month. Not to year or 
location. Unable to state days of the week backwards-could only 
do ___ to ___. Unable to recall 3 items. CN II-XII 
___ strength throughout. No dysmetria, but needed 
prompting to perform compound tasks for cerebellar exam.

 
Pertinent Results:
___ 02:44PM   WBC-5.1 RBC-3.42* HGB-8.8* HCT-29.2* MCV-85 
MCH-25.8* MCHC-30.2* RDW-18.9*
___ 02:44PM   NEUTS-68.5 ___ MONOS-6.3 EOS-1.8 
BASOS-0.6

___ 02:44PM   GLUCOSE-96 UREA N-25* CREAT-1.0 SODIUM-140 
POTASSIUM-4.5 CHLORIDE-107 TOTAL CO2-24 ANION GAP-14
___ 02:45PM   LACTATE-1.3
___ 02:44PM   ___ PTT-38.1* ___
___ 06:10PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 06:10PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG

Labs at discharge:

___ 07:50AM BLOOD WBC-5.4 RBC-3.54* Hgb-9.4* Hct-30.1* 
MCV-85 MCH-26.7* MCHC-31.4 RDW-20.7* Plt Ct-95*
___ 07:50AM BLOOD Plt Smr-LOW Plt Ct-95*
___ 07:50AM BLOOD ___ PTT-36.4* ___
___ 07:50AM BLOOD Glucose-93 UreaN-24* Creat-0.9 Na-142 
K-4.2 Cl-109* HCO3-27 AnGap-10
___ 07:50AM BLOOD ALT-9 AST-25 AlkPhos-104 TotBili-0.9
___ 06:50AM BLOOD Calcium-8.9 Phos-3.2 Mg-2.1 Cholest-98

EKG: Underlying AFib with ventricular pacing. No acute changes.
___   Radiology CHEST (PA & LAT) 
CHEST PA AND LATERAL  
REASON FOR EXAMINATION: ___ man with altered mental 
status. 
pneumonia.  
 
Findings:The mild venous congestion seen on the previous study 
of ___ has resolved. Cardiomegaly is noted. No consolidation, mass 
or 
pneumothorax. Status post CABG with single right ventricular 
pacemaker lead 
in satisfactory position.  
  
CONCLUSION:  
  
Interval resolution of the mild pulmonary edema otherwise no 
change since the 
previous study.  

___   Radiology CT HEAD W/O CONTRAST 
1. No acute intracranial hemorrhage. 
2. New left maxillary sinus disease. Clinical correlation 
recommended. 

  

 
Brief Hospital Course:
 ___ y/o RHM with PMH ___ with questionable history of 
___ body dementia, atrial fibrillation, CAD with CABG of LAD 
and Circumflex ___ pacemaker since ___, multiple falls, iron 
deficiency anemia, spinal stenosis, GI AVMs, and macular 
degeneration p/w confusion and difficulty answering questions 
for 2 days. 
.
#) Altered mental status - Given his acute change in mental 
status, this was concerning for acute delirium on top of 
underlying dementia. Mental status exam, which includes 
inattention, disorientation and disorganized thinking, was 
consistent with delirium.  Neurology was consulted. CT scan of 
his head (MRI is contraindicated in this pt b/c of his 
pacemaker) did not reveal stroke or bleeding, but did reveal new 
left maxillary sinusitis.  Physical exam revealed only mild 
tenderness over his sinuses and nasal congestion. He was 
administered cefpodoxime (10d course; last day is on ___, and 
no signs of an allergic response were noted (pt has allergies to 
penicillin).  We decided not to treat with azithromycin given 
its interaction with both coumadin and digoxin.  Within 24hrs, 
patient showed marked improvement in his mental status.  Per 
family, patient was back at his baseline.  
.
#AFib: Patient was on home regimen of coumdain and digoxin.  We 
held his coumadin on ___ because we were considering a lumbar 
puncture if his mental status did not improve.  At discharge, 
patient was restarted back on coumadin.  His INR at time of 
discharge was 2.0.
.  
#Thrombocytopenia:  His platelt count was as low as 96 during 
this admission. His platelet count was as high as 151 in ___, and has had decreasing counts since. A cause for his 
thrombocytopenia was not discovered, though it is possible that 
they may currently be suppressed in the setting of a new 
infection.

His other medications were continued per his home regimen.
.

 
Medications on Admission:
Digoxin 125 mcg po daily  
Warfarin 4mg po daily  
Ferrousul 325mg (65)1 tab tid  
Isosorbide mononitrate 30 mg 1 tab bid  
Lasix 20 mg po daily  
Ocuvite 100mg po daily  
Pravastatin 20 mg po bid  
Protonix 40 mg po daily  
Sertraline 100 mg po daily 

 
Discharge Medications:
1. Digoxin 125 mcg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

2. FerrouSul 325 mg (65 mg Iron) Tablet Sig: One (1) Tablet PO 
three times a day.  
3. Isosorbide Mononitrate 30 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO BID (2 times a 
day).  
4. Furosemide 20 mg Tablet Sig: One (1) Tablet PO once a day.  
5. Pravastatin 20 mg Tablet Sig: One (1) Tablet PO twice a day.  

6. Ocuvite     Tablet Sig: One (1) Tablet PO once a day.  
7. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
8. Sertraline 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. Sodium Chloride 0.65 % Aerosol, Spray Sig: ___ Sprays Nasal 
BID (2 times a day).
Disp:*1 bottle* Refills:*2*
10. Cefpodoxime 100 mg Tablet Sig: Two (2) Tablet PO Q12H (every 
12 hours) for 8 days: Please take for eight more days, ending on 
___.
Disp:*18 Tablet(s)* Refills:*0*
11. Allopurinol ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. Warfarin 4 mg Tablet Sig: One (1) Tablet PO once a day.  
13. Multivitamin     Capsule Sig: One (1) Capsule PO once a day. 
 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
- Acute delirium on chronic dementia
- Maxillary sinusitis

Secondary:
- Coronary artery disease
- Iron deficiency anemia

 
Discharge Condition:
Home in good condition.

 
Discharge Instructions:
You were admitted to the hospital on ___ after 
experiencing an abrupt change in your mental status.  A CT of 
your head showed an infection in your sinus.  We treated you 
with antibiotics.  Your mental status greatly improved, and per 
your family, is back to your normal baseline.  The CT scan did 
not show any evidence of stroke or bleeding.  

Please continue taking all your home medications as prescribed. 

The following medication was added to your home regimen.  Please 
take for 8 more days and stop on ___.
- Cefpodoxime Proxetil 200 mg, 1 tablet every 12 hours for eight 
days.

Please see your primary physician or return to the emergency 
room immediately if you have chest pain, acute mental status 
changes, rash, hives, headaches, shortness of breath, or fevers. 
 
 
Followup Instructions:
___